US07893056B2
To a solution of phenylmethyl 2,3-dimethyl-1-piperazinecarboxylate (mixture of four stereoisomers) (3.105 g, 12.5 mmol) in dichloromethane (90 mL) at 0° C. was added formaldehyde (1.409 mL, 37% water solution, 18.75 mmol) followed by sodium triacetoxyborohydride (3.445 g, 16.26 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 2 h before being diluted with dichloromethane and washed with 1N NaOH solution. The organics were washed with brine, dried (MgSO4) and evaporated to yield phenylmethyl 2,3,4-trimethyl-1-piperazinecarboxylate (mixture of all four stereoisomers) (3.04 g, 93%). Phenylmethyl (2R,3R)-2,3,4-trimethyl-1-piperazinecarboxylate (365 mg) and phenylmethyl (2S,3S)-2,3,4-trimethyl-1-piperazinecarboxylate (420 mg) were separated out by a combination of preparative and chiral chromatography. Absolute configuration was assigned using Ab Initio vibrational circular dichroism. LCMS: (M+H)+: 263.3.

reactant | phenylmethyl 2,3-dimethyl-1-piperazinecarboxylate | 12.5 mmol, 3.105 g | CC1N(CCNC1C)C(=O)OCC1=CC=CC=C1 | C14H20N2O2
reactant | formaldehyde | 18.75 mmol, 1.409 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 16.26 mmol, 3.445 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | phenylmethyl 2,3,4-trimethyl-1-piperazinecarboxylate | CC1N(CCN(C1C)C)C(=O)OCC1=CC=CC=C1 | C15H22N2O2
